US04254260
A solution of ethyl 2-(3-trichloromethylureido)thiazol-4-ylacetate (6.32 g.) in a mixture of methanol (400 ml.) and water (150 ml.) was adjusted to pH 7 to 7.6 with sodium bicarbonate aqueous solution with stirring at room temperature, and then the solution was stirred for 70 minutes at the same temperature. The methanol was distilled off from the reaction mixture under reduced pressure, and the precipitates were collected by filtration, washed with water and then dried to give colorless crystals of ethyl 2-ureidothiazol-4-ylacetate (3.45 g.), mp 173° to 174° C.

reactant | ethyl 2-(3-trichloromethylureido)thiazol-4-ylacetate | 6.32 g | ClC(NC(NC=1SC=C(N1)CC(=O)OCC)=O)(Cl)Cl | C9H10Cl3N3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | ethyl 2-ureidothiazol-4-ylacetate | 3.45 g | N(C(=O)N)C=1SC=C(N1)CC(=O)OCC | C8H11N3O3S
